US08067448B2
4-((tert-Butyldimethylsilyloxy)methyl)-1-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)benzohydrazide
(2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid (3 g, 11.16 mmol), 4-((tert-butyldimethylsilyloxy)methyl)benzohydrazide (3.44 g, 12.28 mmol) and anhydrous THF (250 mL) were placed in a 500 mL round bottomed flask and the mixture was cooled to −15° C. 1-Hydroxybenzotriazole hydrate (1.51 g, 11.16 mmol) was added to the mixture together with N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide HCl (3.21 g, 16.74 mmol) at −15° C. followed by triethylamine (2.33 mL, 16.74 mmol). The reaction mixture was maintained at −15° C. and stirred for 1 h after which, stirring continued overnight while the mixture slowly warmed to room temperature. After 19 h, the mixture was filtered under vacuum and the residue washed with THF (70 mL). The THF solution was concentrated to ca. 20 mL, whereupon EtOAc (100 mL) was added followed by water (50 mL). The phases were partitioned and the organic phase washed with water (30 mL), brine (30 mL) dried (Na2SO4), filtered and concentrated to furnish a light brown solid (5.82 g). This crude product was not chromatographed. 1H NMR (400 MHz, acetone-d6, δ in ppm) 7.82 (d, J=9 Hz, 2H), 7.42 (d, J=8 Hz, 1H), 7.38 (d, J=8 Hz, 2H), 6.58 (d, J=8 Hz, 1H), 5.42 (d, J=8 Hz, 1H), 4.75 (s, 3H), 4.31-4.22 (m, 1H), 3.99-3.97 (m, 1H), 2.24 (s, 3H), 0.82 (s, 9H) and 0.01 (s, 6H).

reactant | (2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid | 11.16 mmol, 3 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@H](C)O)C | C12H13ClN2O3
reactant | 4-((tert-butyldimethylsilyloxy)methyl)benzohydrazide | 12.28 mmol, 3.44 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C(=O)NN)C=C1 | C14H24N2O2Si
reactant | 1-Hydroxybenzotriazole hydrate | 11.16 mmol, 1.51 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide HCl | 16.74 mmol, 3.21 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 16.74 mmol, 2.33 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 4-((tert-Butyldimethylsilyloxy)methyl)-1-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)benzohydrazide | 5.82 g | [Si](C)(C)(C(C)(C)C)OCC1=CCC(C(=O)NN)(C=C1)C([C@@H]([C@H](C)O)NC1=C(C(=C(C=C1)C#N)Cl)C)=O | C26H37ClN4O4Si
